US05574032
(A) 6-(3-Chloropropoxy)-5-methoxyindole
To a stirred suspension of sodium hydride (0.94 g, 19.6 mmol of a 50% oil dispersion) in dimethylformamide (20 ml) under nitrogen and cooled to -5° C. was added, dropwise, 5-methoxy-6-hydroxyindole (3.2 g, 19.6 mmol) dissolved in dimethylformamide (60 ml) so that the temperature did not exceed -2° C. After complete addition, the reaction was stirred for 45 minutes at 0° C. While maintaining the reaction temperature between -5° C. and 0° C., a solution of 1-bromo-3-chloropropane (3.1 g, 19.6 mmol) dissolved in dimethylformamide (15 ml) was slowly added. The mixture was stirred at ambient temperature under nitrogen for 21 hours. The reaction was cooled in an ice bath, and water was added to destroy the excess sodium hydride, and the aqueous mixture was extracted with ethyl acetate. The ethyl acetate extract was washed with water, dried with MgSO4 and concentrated to yield 5.3 g of a dark, oily liquid. This was combined with an additional sample, for a total of 10.0 g, and purification by preparative HPLC (Waters Associates prep LC/System 500) provided 5.1 g of a brown solid. A 2.5 g sample was recrystallized from isopropyl alcohol to yield 1.1 g (30%) of 6-(3-chloropropoxy)o5-methoxyindole as beige crystals, m.p.=73°-75° C.

reactant | sodium hydride | [H-].[Na+]
reactant | 5-methoxy-6-hydroxyindole | 19.6 mmol, 3.2 g | COC=1C=C2C=CNC2=CC1O | C9H9NO2
reactant | 1-bromo-3-chloropropane | 19.6 mmol, 3.1 g | BrCCCCl | C3H6BrCl
reactant | water | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 6-(3-Chloropropoxy)-5-methoxyindole | 5.1 g | ClCCCOC1=C(C=C2C=CNC2=C1)OC | C12H14ClNO2
